US05559113
4-[2-(3-Nitrophenoxy)ethyl]-1H-imidazole
240 mg (60% in oil, 6 mmol) of sodium hydride are added slowly to a solution of 1.67 g (12 mmol) of 3-nitrophenol in 10 ml of dimethylformamide and the mixture is stirred at room temperature for 1 hour. 200 mg (1.2 mmol) of 4-(2-chloroethyl)-1H-imidazole hydrochloride and tetrabutylammonium iodide (catalyst) are added and the mixture is stirred at 80° C. for 3 days. The reaction mixture is cooled and 150 ml of diethyl ether are added. The precipitate is separated by filtration and the filtrate is evaporated under reduced pressure to give a residue which is purified by preparative high performance chromatography. The title compound is converted to the oxalate and crystallized from ethanol, M.p.: 174°-178° C.

reactant | sodium hydride | 6 mmol, 240 mg | [H-].[Na+]
reactant | 3-nitrophenol | 12 mmol, 1.67 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | 4-(2-chloroethyl)-1H-imidazole hydrochloride | 1.2 mmol, 200 mg | Cl.ClCCC=1N=CNC1
reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-[2-(3-Nitrophenoxy)ethyl]-1H-imidazole | [N+](=O)([O-])C=1C=C(OCCC=2N=CNC2)C=CC1 | C11H11N3O3
